US09290496B2
Step 2: Preparation of 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9-methyl-9H-purin-6-amine
To a 100 L reactor fitted with a caustic scrubber was added 2-methyltetrahydrofuran (44.0 L), 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine (2.20 kg, 8.36 mol, 1.00 eq) and potassium phosphate tribasic (7.10 kg, 33.43 mol mmol, 4.00 eq). The resulting mixture was stirred at 5° C. and dimethyl sulfate (1.42 kg, 11.28 mol, 1.35 eq) was added and the resulting mixture was stirred at 5° C. for 1 hr. The reaction was warmed from 5° C. to 15° C. over 2 hr and then held at 15° C. for 20 hr. The reaction mixture was cooled to 5° C. and quenched with water (44.0 L) while maintaining the internal temperature below 10° C. The mixture was then heated at 50° C. for 2 hr and then cooled to 10° C. and granulated for 2 hr. The product was isolated by filtration and washed with water (11.0 L) and then with 2-methyltetrahydrofuran (11.0 L). The cake was dried under vacuum at 40° C. for 8 hr to give the title compound (1.99 kg, 7.18 mol, 86% yield) as an off white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.23 (br. s., 1 H) 8.13 (br. s., 1 H) 7.67 (s, 1 H) 3.78 (s, 3 H)3.70 (s, 3 H) 3.69 (br. s., 3 H). m/z (APCI+) for C11H13FN7O 278.2 (M+H)+.

reactant | 2-methyltetrahydrofuran | 44.0 L | CC1OCCC1 | C5H10O
reactant | 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine | 8.36 mol, 2.20 kg, 1.00 eq | FC1=NC(=C2N=CNC2=N1)NC=1C(=NN(C1)C)OC | C10H10FN7O
reactant | potassium phosphate tribasic | 33.43 mol, 7.10 kg, 4.00 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dimethyl sulfate | 11.28 mol, 1.42 kg, 1.35 eq | S(=O)(=O)(OC)OC | C2H6O4S
product | 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9-methyl-9H-purin-6-amine | 7.18 mol, 1.99 kg, 86% yield | FC1=NC(=C2N=CN(C2=N1)C)NC=1C(=NN(C1)C)OC | C11H12FN7O
